US03937627
225 grams (2.2 moles) of perchloryl fluoride gas was passed into a stirred suspension of 293 grams (2.2 moles) of aluminum trichloride in 4 liters of benzene at 10°-20°. The reaction was exothermic and the temperature was maintained within the desired limits by controlling the rate at which the fluoride was added and by cooling. By-product hydrogen chloride was removed as it formed. After about 3.5 hours, the amorphous aluminum salt was filtered from the reaction mixture. The filtrate was washed well with water, dried and the benzene was evaporated under reduced pressure (25 torr., 65°) in a dropping film rotary evaporator to give 258 grams (78% yield) of I, as a light yellow liquid.

reactant | perchloryl fluoride | 2.2 moles, 225 grams | Cl(=O)(=O)(=O)F | ClFO3
reactant | aluminum trichloride | 2.2 moles, 293 grams | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | fluoride | [F-]
reactant | benzene | 4 liters | C1=CC=CC=C1 | C6H6
product | perchlorylbenzene | 258 grams, 78% yield | Cl(=O)(=O)(=O)C1=CC=CC=C1 | C6H5ClO3
